US07381719B2
Place 5-(4-formyl-2-methoxyphenoxy)pyridine-2-carboxamide (Ex 391, Part A) (0.600 g, 2.20 mmol), 2-(tetrahydropyran-4-yl)ethylamine (0.285 g, 2.20 mmol) and 3 {acute over (Å)} molecular sieves in a vial. Add methanol (11.0 mL), cap and stir overnight. Add NaBH4 (0.0833 g, 2.20 mmol) and stir until the gasses stop evolving. Filter the reaction mixture, then concentrate it. Purify by chromatography eluting with 5% to 30% (2.0 M NH3 in methanol) in ethyl acetate over 45 minutes to give 5-(2-methoxy-4-{[2-(tetrahydropyran-4-yl)ethylamino]methyl}phenoxy)pyridine-2-carboxamide. (0.6103 g, 71.9%). Dissolve the compound in dichloromethane:methanol (3.2 mL) and add 1 equivalent of 0.50 M methanesulfonic acid in dichloromethane. Stir the solution for a short time before concentrating to give the title compound (0.775 g): TOF MS ES+ 386.2 (M+H)+, HRMS calcd for C21H28N3O4 386.2080 (M+H)+, found 386.2078, time 0.39 min; HPLC [YMC-Pro pack C-18 (150×4.6 mm, S-5 microm), 0.05% TFA/acetonitrile in 0.05% TFA/water at 1.0 mL/min, 10-20% over 5 min, 20-95% over 18], tR=9.3 min, 100% purity.

reactant | 5-(4-formyl-2-methoxyphenoxy)pyridine-2-carboxamide | 2.20 mmol, 0.600 g | C(=O)C1=CC(=C(OC=2C=CC(=NC2)C(=O)N)C=C1)OC | C14H12N2O4
reactant | 2-(tetrahydropyran-4-yl)ethylamine | 2.20 mmol, 0.285 g | O1CCC(CC1)CCN | C7H15NO
reactant | NaBH4 | 2.20 mmol, 0.0833 g | [BH4-].[Na+]
solvent | methanol | 11.0 mL | CO | CH4O
product | 5-(2-methoxy-4-{[2-(tetrahydropyran-4-yl)ethylamino]methyl}phenoxy)pyridine-2-carboxamide | COC1=C(OC=2C=CC(=NC2)C(=O)N)C=CC(=C1)CNCCC1CCOCC1 | C21H27N3O4
